US09108977B2
Under an argon atmosphere, to a solution of 1.64 g of ethyl 7-{[(2R)-2-aminopropyl]oxy}-8-bromo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate in 41 ml of toluene were added 509 mg of sodium t-butoxide, 275 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, and 202 mg of tris(dibenzylideneacetone)dipalladium (0) in this order, followed by heating at 100° C. for 24 hours. Further, 509 mg of sodium t-butoxide, 275 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, and 202 mg of tris(dibenzylideneacetone)dipalladium (0) were added thereto, followed by stirring at 100° C. for additional 24 hours. The reaction mixture was returned to room temperature, then filtered through celite, and washed with ethyl acetate, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: Hex-AcOEt) to obtain 610 mg of ethyl (3R)-3-methyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate.

reactant | ethyl 7-{[(2R)-2-aminopropyl]oxy}-8-bromo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.64 g | N[C@@H](COC1=CC2=C(CCN(CC2)C(=O)OCC)C=C1Br)C | C16H23BrN2O3
reactant | sodium t-butoxide | 509 mg | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 275 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium t-butoxide | 509 mg | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 275 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 41 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 202 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 202 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl (3R)-3-methyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 610 mg | C[C@H]1NC2=CC3=C(CCN(CC3)C(=O)OCC)C=C2OC1 | C16H22N2O3
